US09102614B2
Preparation of (1-hydroxy-5-methoxy-3-methyl-naphthalen-2-yl)-(4-methoxy-benzyloxy)-acetic acid ethyl ester:
To a solution of 4-methoxybenzyl alcohol (0.27 mL, 4 equiv) in THF (11 mL) at 0° C. was added KHMDS (0.5 M in toluene, 3.4 mL, 3 equiv) and the resulting mixture was allowed to stir for 10 min at 0° C. A solution of (4-bromo-5-methoxy-3-methyl-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidene)-acetic acid ethyl ester (200 mg) in THF (1 mL) was added slowly. After stirring for 3 min at 0° C., the reaction was quenched with citric acid (1 M) and extracted with EtOAc. The organic extracts were washed with brine, dried over Na2SO4 and concentrated. The crude residue was purified by flash column chromatography (5-20% EtOAc/hexanes) to give 157 mg of pale orange oil (68% yield). LCMS-ESI+ (m/z): [M+H]+ calcd for C24H27O6: 411.18. Found: 411.21.

reactant | 4-methoxybenzyl alcohol | 0.27 mL, 4 equiv | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | KHMDS | 0.5 M, 3.4 mL, 3 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (4-bromo-5-methoxy-3-methyl-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidene)-acetic acid ethyl ester | 200 mg | C(C)OC(C=C1C(C2=CC=CC(=C2C(C1C)Br)OC)=O)=O | C16H17BrO4
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (1-hydroxy-5-methoxy-3-methyl-naphthalen-2-yl)-(4-methoxy-benzyloxy)-acetic acid ethyl ester | 157 mg, 68% yield | C(C)OC(C(OCC1=CC=C(C=C1)OC)C1=C(C2=CC=CC(=C2C=C1C)OC)O)=O | C24H26O6
